* SPICE NETLIST
***************************************

.SUBCKT NOTXNOR A B GROUND XOR VDD
** N=7 EP=5 IP=0 FDC=6
M0 3 A B GROUND N L=4e-07 W=2.4e-06 AD=3.84e-12 AS=3.36e-12 $X=-13000 $Y=-42000 $D=1
M1 A B 3 GROUND N L=4e-07 W=2.4e-06 AD=3.36e-12 AS=3.84e-12 $X=-3000 $Y=-42000 $D=1
M2 XOR 3 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.68e-12 AS=1.68e-12 $X=21000 $Y=-36000 $D=1
M3 7 A VDD VDD P L=4e-07 W=4.8e-06 AD=2.88e-12 AS=6.72e-12 $X=-13000 $Y=-14000 $D=0
M4 3 B 7 VDD P L=4e-07 W=4.8e-06 AD=6.72e-12 AS=2.88e-12 $X=-8000 $Y=-14000 $D=0
M5 XOR 3 VDD VDD P L=4e-07 W=3.6e-06 AD=5.04e-12 AS=5.04e-12 $X=21000 $Y=-14000 $D=0
.ENDS
***************************************
